US07812022B2
Step A: N-[2-(Dimethylamino)ethyl]-2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide
A solution of 3-nitrobenzaldehyde (127 mg, 0.84 mmol), N,N-dimethylethylenediamine (184 μL, 1.7 mmol), and acetic acid (5 drops) in DCM (10 mL) was stirred for 6 h at rt and 1 h at 40° C. The solution was cooled to 0° C., sodium triacetoxyborohydride (360 mg, 1.7 mmol) was added in one portion, and the reaction was stirred overnight at rt. After 16 h, the reaction was extracted with 4 N NaOH, dried over Na2SO4, filtered, and concentrated. The crude product was redissolved in DCM (10 mL), and TEA (167 μL, 1.2 mmol) and TFAA (135 μL, 0.96 mmol) were added. After 3 h at rt, the reaction mixture was diluted with DCM, washed with 2 N NaOH, dried over Na2SO4, filtered, and adsorbed onto silica. The crude product was purified by column chromatography to generate the title compound in 76% yield over two step (204 mg, 0.64 mmol). 1H NMR (400 MHz, CDCl3): δ 8.18 (s, 1H), 8.12 (d, J=8.2 Hz, 1H), 7.74 (d, J=7.5 Hz, 1H), 7.52 (t, J=7.9 Hz, 1H), 3.95 (s, 2H), 3.13 (t, J=6.0 Hz, 2H), 3.00 (t, J=6.0 Hz, 2H), 2.78 (s, 6H). MS (ESI) m/z=320 [M+H]+.

reactant | 3-nitrobenzaldehyde | 0.84 mmol, 127 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | N,N-dimethylethylenediamine | 1.7 mmol, 184 μL | CN(CCN)C | C4H12N2
reactant | sodium triacetoxyborohydride | 1.7 mmol, 360 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFAA | 0.96 mmol, 135 μL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(Dimethylamino)ethyl]-2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide | 76% yield | CN(CCN(C(C(F)(F)F)=O)CC1=CC(=CC=C1)[N+](=O)[O-])C | C13H16F3N3O3
